US06265415B1
Synthesis of 2,3-dimethyl-8-(2,6-dimethylbenzylamino)imidazo[1,2-a]pyridine
A mixture of 8-amino-2,3-dimethylimidazo[1,2-a]pyridine (0.7 g, 4.34 mmol), sodium carbonate (2.0 g), sodium iodide (0.3 g), 2,6-dimethylbenzylchloride (0.671 g, 4.34 mmol) and acetone (30 ml) was stirred overnight. The reaction mixture was filtered and the solvent was removed in vacuo. The residue was dissolved in methylene chloride and washed with aqueous NaHCO3. The organic layer was separated and the solvent was evaporated. The crude product was purified by flash chromatography eluting with CH2Cl2/MeOH to give 0.7 g of the title compound.

reactant | 8-amino-2,3-dimethylimidazo[1,2-a]pyridine | 4.34 mmol, 0.7 g | NC=1C=2N(C=CC1)C(=C(N2)C)C | C9H11N3
reactant | sodium carbonate | 2.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.3 g | [I-].[Na+]
reactant | 2,6-dimethylbenzylchloride | 4.34 mmol, 0.671 g | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2,3-dimethyl-8-(2,6-dimethylbenzylamino)imidazo[1,2-a]pyridine | 0.7 g | CC=1N=C2N(C=CC=C2NCC2=C(C=CC=C2C)C)C1C | C18H21N3
